2176-08-02 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2176-8-1**] 01:59 PM
 FEVER - 101.3
F - [**2176-8-1**] 04:00 PM
   - admitted from ER
   - started on vancomycin, meropenem, PO vancomycin
   - pancultured
   - started on diltiazem drip and PO diltiazem for atrial fibrillation
   with rapid ventricular response.  Diltiazem drip now discontinued for
   hypotension.
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2176-8-1**] 08:00 PM
   Meropenem - [**2176-8-2**] 04:12 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2176-8-1**] 05:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-2**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.8
C (98.2
   HR: 140 (86 - 146) bpm
   BP: 97/36(51) {81/36(48) - 134/82(91)} mmHg
   RR: 41 (23 - 41) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,228 mL
                                                                  1,223 mL
   PO:
             TF:
   IVF:
                                                                  1,928 mL
                                                                  1,223 mL
   [**Year (4 digits) 1526**] products:
   Total out:
                                                                  1,025 mL
                                                                    535 mL
   Urine:
                                                                  1,025 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,203 mL
                                                                    688 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General: Somnolent, opens eyes to voice, does not respond to questions
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, JVP flat, no LAD
   Lungs: Upper airway wheezes, intermittent cough, otherwise clear to
   auscultation bilaterally
   CV: Tachycardic, s1 + s2, II/VI SEM at right upper sternal border
   non-radiating
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, PEG tube in place
   without erythema, suprapubic catheter without erythema or drainage
   GU: Suprapubuc and indwelling catheters draining clear yellow urine
   Ext: cool, 1+ pulses, no clubbing, cyanosis, 1+ edema
   Neurologic:  Moves all extremities to painful stimuli, alert, not
   oriented, PERRL, blinks to threat
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   458 K/uL
   8.3 g/dL
   95 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.1 mEq/L
   28 mg/dL
   118 mEq/L
   142 mEq/L
   25.8 %
   11.0 K/uL
        [image002.jpg]
                             [**2176-8-2**]  04:30 AM
   WBC
   11.0
   Hct
   25.8
   Plt
   458
   Cr
   0.8
   Glucose
   95
   Other labs: PT / PTT / INR:14.7/27.3/1.3, ALT / AST:31/46, Alk Phos / T
   Bili:256/0.3, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.6 mg/dL
   Imaging: CXR Portable [**2176-8-1**]: No definite acute process. Possible
   small amount of free air beneath the left hemidiaphragm versus
   summation of shadows. Repeat chest x- ray could be performed for
   confirmation.
   Microbiology: [**2176-8-1**]: Urine and [**Month/Day/Year **] cultures pending
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 TACHYCARDIA, OTHER
   Assessment and Plan: 87 year old male with a history of type II
   diabetes on insulin, prostate cancer s/p XRT, with multiple recent
   hospitalizations since [**2176-5-31**] for bladder rupture s/p repair, altered
   mental status, and hematuria who presents from [**Hospital 12**] Rehab with
   fevers, tachycardia and somnolence.
   Fevers/Tachycardia/Leukocytosis:  Likely related to infection.  Source
   currently unclear.  [**Name2 (NI) 1526**] and urine cultures from yesterday continue to
   have no growth.  Unable to send sputum or c. diff currently.  [**Name2 (NI) 1526**]
   pressures ranging in high 80s after 5 liters of IVF and PO diltiazem.
   Creatinine improved today.  Lactate trended down with hydration.
   Currently no evidence of end organ lack of perfusion.  He is making
   good urine.  In the past, patient has grown MRSA in his sputum,
   pseudomonas in peritoneal cultures multiple gram negative rods in his
   urine.  Also was recently treated for clostridium difficle colitis.  He
   is currently on vancomycin, meropenem and PO vancomyin.
   - vancomycin, meropenem and PO vancomycin to cover MRSA, resistent gram
   negative rods, and clostridium difficle
   - [**Name2 (NI) **], urine, sputum cultures
   - stool for c. diff
   - follow cultures from [**Hospital 12**] rehab with plans for quick tapering of
   antibiotics
   - IV fluids for systolic BPs < 90s, UOP < 30 cc/hr
   - RUQ ultrasound given mildly elevated LFTs on admission
   Hypoxia:  On arrival he was satting only 93% on a non-rebreather with
   tachypnea. Tachypnea may have been related to underlyign infection.
   Currently off oyxgen breathing comfortably.  CXR without infiltrates.
   - no further workup
   Atrial Fibrillation with rapid ventricular response:  HR on admission
   was in the 140s.  Unclear whether the underlying rhythm was SVT versus
   atrial fibrillation.  No improvement with carotid massage.  Given IV
   diltiazem with slowing of his rate to 90s with clear atrial
   fibrillation but rate control limited by hypotension.
   - continue low dose PO diltiazem
   - give digoxin today to help rate control
   - Consider amio also
   - not on anticoagulation given previous bleeding
   Altered Mental Status:  Most likely related to critical illness and
   infection.  Patient is awake but currently not following commands.
   Neurologic exam is non-focal.  Is at high risk for ichemic stroke given
   atrial fibrillation not on anticoagulation.  Mental status much
   improved since admission
   - monitor neurologic exam for now
   - consider CT head if no improvement
   Anemia: Hematocrit 25 today down from 34 in the setting of significant
   IVF.  25 is his recent baseline.  Past workup revealed iron deficiency
   and inappropriately low reticulocyte count.
   - continue iron supplements
   - monitor hematocrit
   - active type and screen
   Type II Diabetes: On insulin.
   - Will give half patient's home lantus and continue regular sliding
   scale given critial illness and titrate up as tolerated
   Seizure Disorder:  Dilantin level low this morning at 2.0 in the
   setting of missing some doses yesterday.
   - continue dilantin at 100 mg PO TID
   C. diff colitis: Scheduled to complete course of flagyl on [**2176-7-31**] at
   [**Hospital1 12**] but this was continued given clinical deterioration.
   - will treat with PO vancomycin for now
   Pressure Ulcer:
   - wound care consult
   FEN: IVF for SBP < 90, UOP < 30 cc/hr, replete electrolytes, NPO, tube
   feeds
   Prophylaxis: Pneumoboots (no SC heparin secondary to bleeding)
   Access: R. EJ, 20 g, single lumen PICC
   Code:  Full (discussed with HCP)
   Communication: Wife Phone: [**Telephone/Fax (1) 9096**]
   Disposition: ICU care for now
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2176-8-1**] 01:59 PM
   20 Gauge - [**2176-8-1**] 02:30 PM
   18 Gauge - [**2176-8-1**] 08:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2176-08-02 08:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Started on vanc/[**Last Name (un) 430**]/PO [**Doctor Last Name 251**]
   - Started on dilt gtt
   - PICC line placed
   - Febrile 101.3
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2176-8-1**] 08:00 PM
   Meropenem - [**2176-8-2**] 04:12 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2176-8-1**] 05:35 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-2**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.8
C (98.2
   HR: 107 (86 - 146) bpm
   BP: 88/59(64) {81/36(48) - 134/82(91)} mmHg
   RR: 33 (23 - 41) insp/min
   SpO2: 93%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  4,228 mL
                                                                  1,264 mL
   PO:
             TF:
   IVF:
                                                                  1,928 mL
                                                                  1,264 mL
   [**Year (4 digits) 1526**] products:
   Total out:
                                                                  1,025 mL
                                                                    605 mL
   Urine:
                                                                  1,025 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,203 mL
                                                                    659 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   458 K/uL
   95 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.1 mEq/L
   28 mg/dL
   118 mEq/L
   142 mEq/L
   25.8 %
   11.0 K/uL
        [image002.jpg]
                             [**2176-8-2**]  04:30 AM
   WBC
   11.0
   Hct
   25.8
   Plt
   458
   Cr
   0.8
   Glucose
   95
   Other labs: PT / PTT / INR:14.7/27.3/1.3, ALT / AST:31/46, Alk Phos / T
   Bili:256/0.3, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
    87 year old male with a history of type II diabetes on insulin,
   prostate cancer s/p XRT, with multiple recent  hospitalizations since
   [**2176-5-31**] for bladder rupture s/p repair, altered mental status, and
   hematuria who presents from [**Hospital 12**] Rehab with fevers, tachycardia and
   somnolence.
   Fevers/Tachycardia/Leukocytosis:  Likely related to infection.  Source
   currently unclear.  [**Name2 (NI) 1526**] and urine cultures from yesterday continue to
   have no growth.  Unable to send sputum or c. diff currently.  [**Name2 (NI) 1526**]
   pressures ranging in high 80s after 5 liters of IVF and PO diltiazem.
   Creatinine improved today.  Lactate trended down with hydration.
   Currently no evidence of end organ lack of perfusion.  He is making
   good urine.  In the past, patient has grown MRSA in his sputum,
   pseudomonas in peritoneal cultures multiple gram negative rods in his
   urine.  Also was recently treated for clostridium difficle colitis.  He
   is currently on vancomycin, meropenem and PO vancomyin.
   - vancomycin, meropenem and PO vancomycin to cover MRSA, resistent gram
   negative rods, and clostridium difficle
   - [**Name2 (NI) **], urine, sputum cultures
   - stool for c. diff
   - follow cultures from [**Hospital 12**] rehab with plans for quick tapering of
   antibiotics
   - IV fluids for systolic BPs < 90s, UOP < 30 cc/hr
   - RUQ ultrasound given mildly elevated LFTs on admission
   Hypoxia:  On arrival he was satting only 93% on a non-rebreather with
   tachypnea. Tachypnea may have been related to underlyign infection.
   Currently off oyxgen breathing comfortably.  CXR without infiltrates.
   - no further workup
   Atrial Fibrillation with rapid ventricular response:  HR on admission
   was in the 140s.  Unclear whether the underlying rhythm was SVT versus
   atrial fibrillation.  No improvement with carotid massage.  Given IV
   diltiazem with slowing of his rate to 90s with clear atrial
   fibrillation but rate control limited by hypotension.
   - continue low dose PO diltiazem
   - may need to consider digoxin if unable to control adequately with
   drip secondary to hypotension
   - not on anticoagulation given previous bleeding
   Altered Mental Status:  Most likely related to critical illness and
   infection.  Patient is awake but currently not following commands.
   Neurologic exam is non-focal.  Is at high risk for ichemic stroke given
   atrial fibrillation not on anticoagulation.
   - monitor neurologic exam for now
   - consider CT head if no improvement
   Anemia: Hematocrit 25 today down from 34 in the setting of significant
   IVF.  25 is his recent baseline.  Past workup revealed iron deficiency
   and inappropriately low reticulocyte count.
   - continue iron supplements
   - monitor hematocrit
   - active type and screen
   Type II Diabetes: On insulin.
   - Will give half patient's home lantus and continue regular sliding
   scale given critial illness and titrate up as tolerated
   Seizure Disorder:  Dilantin level low this morning at 2.0 in the
   setting of missing some doses yesterday.
   - continue dilantin at 100 mg PO TID
   C. diff colitis: Scheduled to complete course of flagyl on [**2176-7-31**] at
   [**Hospital1 12**] but this was continued given clinical deterioration.
   - will treat with PO vancomycin for now
   Pressure Ulcer:
   - wound care consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2176-8-1**] 01:59 PM
   20 Gauge - [**2176-8-1**] 02:30 PM
   18 Gauge - [**2176-8-1**] 08:01 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 42 minutes
   Patient is critically ill

2176-08-03 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2176-8-2**] 09:24 AM
 SPUTUM CULTURE - At [**2176-8-2**] 12:00 PM
 STOOL CULTURE - At [**2176-8-2**] 12:00 PM
   - Loaded with digoxin for a-fib with RVR (dose per pharmacy should be
   0.25 x 3 doses) -> rates came down to 90-100s but tachy again in
   evening, so Dilt increased to 60 mg QID.
   - RUQ U/S with gall stones but without acute cholecystitis.
   - Urine cx with >100,000 yeast. Given significant bladder history,
   would prefer to call urology for foley and suprapubic cath change.
   - Hct 25.8 -> 24.9
   - Wound care recs put in POE and say to consider Surgical consult for
   debridement of sacral ulcer.
   - [**Hospital 12**] rehab MACU (for culture data) [**Telephone/Fax (1) 1959**]: Blood Cx Collected
   [**2176-7-31**] with GPC in cluster 2/2 bottles
   - C diff positive
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2176-8-3**] 02:30 AM
   Meropenem - [**2176-8-3**] 04:30 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2176-8-2**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-3**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 113 (96 - 132) bpm
   BP: 142/68(84) {88/44(60) - 142/74(86)} mmHg
   RR: 34 (18 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.4 kg (admission): 63.1 kg
   Height: 72 Inch
             Total In:
                                                                  2,941 mL
                                                                    854 mL
   PO:
             TF:
                                                                    235 mL
                                                                    275 mL
   IVF:
                                                                  1,986 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    330 mL
   Urine:
                                                                  1,445 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,496 mL
                                                                    524 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General: Alert responds to questions, AO x 1
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Lungs: Upper airway wheezes, intermittent cough, otherwise clear to
   auscultation bilaterally
   CV: Irregularly irregular, s1 + s2, II/VI SEM at right upper sternal
   border non-radiating
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, PEG tube in place
   without erythema, suprapubic catheter without erythema or drainage
   GU: Supra-pubic and indwelling catheters draining clear yellow urine
   Ext: cool, 1+ pulses, no clubbing, cyanosis, 1+ edema
   Neurologic:  Moves all extremities to painful stimuli, alert, not
   oriented, PERRL, blinks to threat
   Labs / Radiology
   598 K/uL
   8.5 g/dL
   116 mg/dL
   0.8 mg/dL
   18 mEq/L
   4.4 mEq/L
   25 mg/dL
   114 mEq/L
   141 mEq/L
   25.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2176-8-2**]  04:30 AM
                             [**2176-8-2**]  03:08 PM
                             [**2176-8-3**]  03:26 AM
   WBC
   11.0
   10.1
   Hct
   25.8
   24.9
   25.6
   Plt
   458
   598
   Cr
   0.8
   0.8
   Glucose
   95
   116
   Other labs: PT / PTT / INR:14.7/27.3/1.3, ALT / AST:28/43, Alk Phos / T
   Bili:241/0.3, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   ALT: 28
   AP: 241
   Tbili: 0.3
   Alb:
   AST: 43
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 429**]:
   Lip:
   Phenytoin: 1.8
   RUQ U/S: ***Prelim Read***
   Multiple gallstones in a non-distended GB. GB wall normal. Neg sono
   [**Name (NI) 1112**]. No
   pericholecystic fluid. CBD normal. No evidence of acute cholecystitis.
   Assessment and Plan
   87 year old male with a history of type II diabetes on insulin,
   prostate cancer s/p XRT, with multiple recent hospitalizations since
   [**2176-5-31**] for bladder rupture s/p repair, altered mental status, and
   hematuria who presents from [**Hospital 12**] Rehab with fevers, tachycardia and
   somnolence.
   Fevers/Tachycardia/Leukocytosis:  Patient now with 3 possible sources
   of infection (+ C diff, GPC in OSH blood cx, and yeast in urine).
   Blood pressures much improved after d/c
ing diltiazem gtt.  Creatinine
   improved.  Lactate trended down with hydration.  Currently no evidence
   of end organ lack of perfusion.  He is making good urine.  RUQ
   ultrasound with stones but no signs of cholecystitis. He is currently
   on vancomycin, meropenem and PO vancomyin.
   - vancomycin, meropenem and PO vancomycin to cover MRSA, resistent gram
   negative rods, and clostridium difficle
   - f/u blood, urine cx - sputum cultures contaminated
   - follow cultures from [**Hospital 12**] rehab with plans for quick tapering of
   antibiotics
   - [**Hospital 12**] rehab MACU (for culture data) [**Telephone/Fax (1) 1959**]
   Atrial Fibrillation with rapid ventricular response:  HR on admission
   was in the 140s.  Unclear whether the underlying rhythm was SVT versus
   atrial fibrillation.  No improvement with carotid massage.  Given IV
   diltiazem with slowing of his rate to 90s with clear atrial
   fibrillation but rate control initially limited by hypotension.   Dig
   load started [**2176-8-2**] with good effect.
   - continue PO diltiazem and titrate up as needed
   - continue digoxin
   - Consider amio if HR remains difficult to control.
   - not on anticoagulation given previous bleeding
   C. diff colitis: He was scheduled to complete course of flagyl on
   [**2176-7-31**] at [**Hospital1 12**] but this was continued given clinical deterioration.
   Now C diff positive again
   - continue PO vancomycin for now
   Yeast in Urine: Patient with complicated GU history including bladder
   rupture x2, now with neobladder drained by suprapubic cath and foley
   cath.
   - Spoke with Urology who stated we should easily be able to change both
   catheters but can call for any trouble.
   - Change foley and suprapubic cath today.
   Altered Mental Status:  Most likely related to critical illness and
   infection.  Patient is awake but currently not following commands.
   Neurologic exam is non-focal.  Is at high risk for ichemic stroke given
   atrial fibrillation not on anticoagulation.  Mental status much
   improved since admission
   - monitor neurologic exam for now
   Hypoxia:  On arrival he was satting only 93% on a non-rebreather with
   tachypnea. Tachypnea may have been related to underlyign infection.
   Currently off oyxgen breathing comfortably.  CXR without infiltrates.
   - no further workup
   Anemia: Hematocrit 34 on presentation and came down to 25 in the
   setting of significant IVF.  25 is his recent baseline.  Past workup
   revealed iron deficiency and inappropriately low reticulocyte count.
   - continue iron supplements
   - monitor hematocrit
   - active type and screen
   Type II Diabetes: On insulin.
   - Titrate up lantus and continue regular sliding scale as tolerated
   Seizure Disorder:  Dilantin level low again this morning at 1.8 and
   corrects to 2.8 with most recent albumin.
   - check albumin
   - reload with 800 mg fosphenytoin
   - 100 mg TID of fosphenytoin (regular pheytoin can clog PICC)
   - When transition back to PO/NG will need to flush PEG well as
   phenytoin sticks to PEG tube
   Pressure Ulcer:
   - f/u wound care
   - consider surgery consult for debridement of sacral ulcer.
   FEN: NPO, tube feeds
   Prophylaxis: Pneumoboots (no SC heparin secondary to bleeding)
   Access: R. EJ, 20 g, single lumen PICC
   Code:  Full (discussed with HCP)
   Communication: Wife Phone: [**Telephone/Fax (1) 9096**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-8-2**] 04:00 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2176-8-1**] 01:59 PM
   20 Gauge - [**2176-8-1**] 02:30 PM
   18 Gauge - [**2176-8-1**] 08:01 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Wife Phone: [**Telephone/Fax (1) 9096**]
   Code status: Full code
   Disposition:Transfer to floor

2176-08-03 08:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - IV dilt for increased RVR
   - C. diff positive
   - Blood culture from rehab with GPCC [**3-4**]
   - S/p wound care consult
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2176-8-3**] 04:30 AM
   Vancomycin - [**2176-8-3**] 08:12 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2176-8-2**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-3**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98
   HR: 104 (93 - 132) bpm
   BP: 134/60(77) {101/44(60) - 142/74(86)} mmHg
   RR: 24 (18 - 35) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 68 kg (admission): 63.1 kg
   Height: 72 Inch
             Total In:
                                                                  2,941 mL
                                                                  1,385 mL
   PO:
             TF:
                                                                    235 mL
                                                                    467 mL
   IVF:
                                                                  1,986 mL
                                                                    389 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    485 mL
   Urine:
                                                                  1,445 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,496 mL
                                                                    900 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), 3/6 SEM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, A+O x 1
   Labs / Radiology
   8.5 g/dL
   598 K/uL
   116 mg/dL
   0.8 mg/dL
   18 mEq/L
   4.4 mEq/L
   25 mg/dL
   114 mEq/L
   141 mEq/L
   25.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2176-8-2**]  04:30 AM
                             [**2176-8-2**]  03:08 PM
                             [**2176-8-3**]  03:26 AM
   WBC
   11.0
   10.1
   Hct
   25.8
   24.9
   25.6
   Plt
   458
   598
   Cr
   0.8
   0.8
   Glucose
   95
   116
   Other labs: PT / PTT / INR:14.7/27.3/1.3, ALT / AST:28/43, Alk Phos / T
   Bili:241/0.3, Albumin:2.2 g/dL, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   87 yo man with h/o dementia, recurrent UTIs, ruptured bladder requiring
   suprapubic catheter, AFib, prior C.diff, comes in with fever, rapid AF,
   sepsis.
   Fevers/Tachycardia/Leukocytosis:  Possible sources of infection
 GPCC
   in blood, C. diff +, and yeast in urine.
   - Continue vancomycin, meropenem and PO vancomyin
 will d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 430**] if no
   GN in cultures
   - Change suprapubic and foley catheters and resend urine cultures
   - F/U cultures from [**Hospital 12**] rehab
   - Wound care consult for pressure ulcer recommending surgery consult
   will call today
   - TTE Monday
   Atrial Fibrillation with rapid ventricular response:
   - Continue to titrate PO diltiazem
   - Continue dignoxin
   - Consider amio if not controlled with above
   - Not on anticoagulation given previous h/o bleeding
   Altered Mental Status: Somewhat worse today.
   - Continue to monitor in setting of treating infections
   Seizure disorder: Dilantin had been held as level was high, now low -
   so will reload.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-8-2**] 04:00 PM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2176-8-1**] 01:59 PM
   20 Gauge - [**2176-8-1**] 02:30 PM
   18 Gauge - [**2176-8-1**] 08:01 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. He will continue to be
   treated for his bacteremia among other problems as documented above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2176-8-3**] 13:06 ------